US08604211B2
Preparation of 3-amino-N-methyl-N-(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)propanamide (Compound 41)
Triethylsilane (530 μL, 3.3 mmol, 5.0 equiv) and trifluoroacetic acid (4.9 mL, 66 mmol, 100 equiv) were sequentially added to a stirred solution of tert-butyl 3-(methyl(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)amino)-3-oxopropylcarbamate (240 mg, 0.66 mmol, 1.0 equiv) in dichloromethane (8.8 mL) at 23° C. The resulting colorless solution was stirred at 23° C. for 30 m. The reaction mixture was concentrated by rotary evaporation. The residue was diluted with a saturated solution of sodium bicarbonate (80 mL) and extracted with dichloromethane (8×50 mL). The combined organic layers were dried (Na2SO4), gravity filtered, and concentrated by rotary evaporation to afford the title compound as a tan powder (86 mg, 49%): mp 110-112° C.; IR (KBr thin film) 3047 (w), 2926 (w), 1682 (s), 1591 (m) cm−1; 1H NMR (300 MHz, CDCl3) δ 9.15 (d, J=2 Hz, 1H), 8.69 (dd, J=5, 2 Hz, 1H), 8.28 (dt, J=8, 2 Hz, 1H), 7.43 (dd, J=8, 5 Hz, 1H), 3.86 (s, 3H), 3.17 (m, 2H), 2.86 (t, J=6 Hz, 2H); ESIMS m/z 264 ([M+H]+).

reactant | Triethylsilane | 3.3 mmol, 530 μL, 5.0 equiv | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 66 mmol, 4.9 mL, 100 equiv | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 3-(methyl(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)amino)-3-oxopropylcarbamate | 0.66 mmol, 240 mg, 1.0 equiv | CN(C(CCNC(OC(C)(C)C)=O)=O)C=1SC(=NN1)C=1C=NC=CC1 | C16H21N5O3S
solvent | dichloromethane | 8.8 mL | ClCCl | CH2Cl2
product | 3-amino-N-methyl-N-(5-(pyridin-3-yl)-1,3,4-thiadiazol-2-yl)propanamide | 86 mg, 49% | NCCC(=O)N(C=1SC(=NN1)C=1C=NC=CC1)C | C11H13N5OS
